US07553965B2
b) [3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-m-tolyl-amine dihydrochloride
To a solution of m-tolylamine (21.7 mg, 0.20 mmol) in dry DMF (2 ml) was added K2CO3 (31 mg, 0.22 mmol), NaI (33 mg, 0.22 mmol) and 3-(3-Chloro-propyl)-1,2,2a,3,4,5-hexahydro-3-aza-acenaphthylene (50 mg, 0.21 mmol) and the mixture was stirred overnight at 90° C. The mixture was vacuum concentrated and the residue was dissolved in water (5 mL), extracted with ethyl acetate (3×5 mL) and washed with water. The organic layer was dried and evaporated. The residue was dissolved in ethyl acetate (1 ml) and 2.8 N hydrochloric acid was added. A light brown solid precipitate, which was collected by filtration to give the desired product (40 mg, 66% yield).

reactant | m-tolylamine | 0.20 mmol, 21.7 mg | C1(=CC(=CC=C1)N)C | C7H9N
reactant | K2CO3 | 0.22 mmol, 31 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.22 mmol, 33 mg | [Na+].[I-]
reactant | 3-(3-Chloro-propyl)-1,2,2a,3,4,5-hexahydro-3-aza-acenaphthylene | 0.21 mmol, 50 mg | ClCCCN1C2CCC=3C=CC=C(CC1)C32 | C14H18ClN
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | [3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-m-tolyl-amine dihydrochloride | 40 mg, 66% yield | Cl.Cl.C1CC2N(CCC3=CC=CC1=C23)CCCNC=2C=C(C=CC2)C | InChI=1S/C21H26N2.2ClH/c1-16-5-2-8-19(15-16)22-12-4-13-23-14-11-18-7-3-6-17-9-10-20(23)21(17)18;;/h2-3,5-8,15,20,22H,4,9-14H2,1H3;2*1H
